US08008491B2
An ice-acetone cooled solution of anhydrous dimethylformamide (0.71 mL, 9.2 mmol) and anhydrous dichloromethane (2 mL) under a N2 atmosphere is treated drop-wise with phosphorus oxychloride (0.93 mL, 10 mmol). The resulting yellowish mixture is continued to stir for 40 mins to give a cloudy mixture. A solution of 1-pyridin-3-yl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one (370 mg, 1.75 mmol) and pyridine (0.30 mL, 3.7 mmol) in dichloromethane (1 mL) is added drop-wise over 20 minutes to form a red mixture. The reaction is allowed to warm slowly to room temperature over 1 hour, and stirred at room temperature for 24 hours. The red reaction mixture is concentrated, and the residue is treated with phosphorus oxychloride (10 mL) and the mixture heated in an oil bath at 110° C. for 3 hours. After concentration of the red mixture, the residue is treated with ice water, and treated with saturated aqueous sodium hydrogen carbonate solution until the effervescence ceases. The mixture is extracted with 5 portions of dichloromethane, the combined extracts are dried over magnesium sulfate, filtered and evaporated to leave a brown solid. The residue is purified by flash chromatography on a 10-gram silica gel cartridge by elution with dichloromethane. Fractions containing the product are combined and the solvent evaporated, and the residue is purified by flash chromatography on a 10-gram silica gel cartridge by elution with dichloromethane. After trituration with heptane 36 mg of 2-chloro-1-pyridin-3-yl-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde is obtained as a fluffy cream powder. A further 11 mg of product is obtained by purifying the heptane supernatant by flash chromatography on a 5-gram silica gel cartridge by elution with dichloromethane:methanol (99:1) increasing to ethyl acetate. Total yield, 47 mg, 10% yield. MS: m/e 258/260 (M+H).

reactant | dimethylformamide | 9.2 mmol, 0.71 mL | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 10 mmol, 0.93 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-pyridin-3-yl-1,3-dihydro-pyrrolo[2,3-b]pyridin-2-one | 1.75 mmol, 370 mg | N1=CC(=CC=C1)N1C(CC=2C1=NC=CC2)=O | C12H9N3O
reactant | pyridine | 3.7 mmol, 0.30 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 2-chloro-1-pyridin-3-yl-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde | ClC1=C(C=2C(=NC=CC2)N1C=1C=NC=CC1)C=O | C13H8ClN3O
